US04177344
A solution of 51 g of 1,6-anhydro-3,4-di-O-benzyl-2-O-tetrahydropyranyl-β-D-glucopyranose in 400 ml of acetone is warmed with 20 ml 1 N hydrochloric acid to 50° for 20 minutes. After cooling, this solution is neutralised with 1 N sodium hydroxide solution and evaporated to dryness. The residue is taken up in ether, this solution is washed thoroughly with water and dried over magnesium sulphate and the solvent is evaporated. The product is benzoylated as described in Example 3 and the 1,6-anhydro-2-O-benzoyl-3,4-di-O-benzyl-β-D-glucopyranose which is thus obtained is purified by recrystallisation.

reactant | 1,6-anhydro-3,4-di-O-benzyl-2-O-tetrahydropyranyl-β-D-glucopyranose | 51 g | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@H]2O[C@@H]([C@H]1OCC1=CC=CC=C1)CO2)OC2OCCCC2 | C25H30O6
reactant | hydrochloric acid | 1 N, 20 ml | Cl | ClH
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | acetone | 400 ml | CC(=O)C | C3H6O
product | 1,6-anhydro-2-O-benzoyl-3,4-di-O-benzyl-β-D-glucopyranose | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H]2O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)CO2 | C27H26O6
